US04942245
2-[4-(4-Acetyl-3-hydroxy-2-propylphenylthio)butylthio]benzimidazole-5-carboxylic acid
A mixture of ethyl 2-[4-(4-acetyl-3-hydroxy-2-propylphenylthio)butylthio]benzimidazole-5-carboxylate (2.50 g), 1,4-dioxane (30 ml) and sodium hydroxide (1.03 g) in water (30 ml) was stirred at 60 ° C. for 2 hours. This mixture was poured into ice-water, made acidic with concentrated hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous sodium sulfate and evaporated. The resulting residue was purified by silica gel column chromatography, eluting with dichloromethane-methanol (10:1), to give the title compound (1.52 g, 64.5 %) as yellow crystals, mp 90-95° C.

reactant | ethyl 2-[4-(4-acetyl-3-hydroxy-2-propylphenylthio)butylthio]benzimidazole-5-carboxylate | 2.50 g | C(C)(=O)C1=C(C(=C(C=C1)SCCCCSC=1NC2=C(N1)C=CC(=C2)C(=O)OCC)CCC)O | C25H30N2O4S2
reactant | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | 1.03 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 30 ml | O | H2O
product | 2-[4-(4-Acetyl-3-hydroxy-2-propylphenylthio)butylthio]benzimidazole-5-carboxylic acid | 1.52 g, 64.5 % | C(C)(=O)C1=C(C(=C(C=C1)SCCCCSC=1NC2=C(N1)C=CC(=C2)C(=O)O)CCC)O | C23H26N2O4S2
